US04642308
The procedure is similar to that described in Example 1, but starting with 4-methoxybenzoic acid (12.2 g), N,N'-carbonyldiimidazole (10.3 g) and 2-amino-7-methyl-1,8-naphthyridine (9.5 g). The product produced by precipitation in water (14.4 g; m.p. 110° C.) is dissolved in boiling acetonitrile (150 cc). After 2 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with acetonitrile (2×10 cc) and dried at 45° C. under reduced pressure (0.067 kPa). N-(7-methyl-1,8-naphthyridin-2-yl)-4-methoxybenzamide (12.7 g) is produced, m.p. 119° C.

reactant | 4-methoxybenzoic acid | 12.2 g | COC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | 2-amino-7-methyl-1,8-naphthyridine | 9.5 g | NC1=NC2=NC(=CC=C2C=C1)C | C9H9N3
reactant | acetonitrile | 150 cc | C(C)#N | C2H3N
solvent | water | 14.4 g | O | H2O
product | N-(7-methyl-1,8-naphthyridin-2-yl)-4-methoxybenzamide | 12.7 g | CC1=CC=C2C=CC(=NC2=N1)NC(C1=CC=C(C=C1)OC)=O | C17H15N3O2
